US07262188B2
1-(5-Phenylsulfonyl-2-chlorophenyl)piperazine (E3)
4-(5-Phenylsulfonyl-2-chlorophenyl)piperazine-1-carboxylic acid tert-butyl ester (D4B) was dissolved in 8 ml of 1,4-dioxane/4 M HCl 1:1. The mixture was heated at 60° C. for 1 h. The solvent was evaporated in vacuo to give the title product as a colourless solid.

reactant | 4-(5-Phenylsulfonyl-2-chlorophenyl)piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)S(=O)(=O)C1=CC=CC=C1)Cl | C21H25ClN2O4S
solvent | 1,4-dioxane | 4 M, 8 ml | O1CCOCC1 | C4H8O2
product | 1-(5-Phenylsulfonyl-2-chlorophenyl)piperazine | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C1)N1CCNCC1)Cl | C16H17ClN2O2S
